Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
all seafood / ibuprofen / bees / acetaminophen
 
Attending: ___.
 
Chief Complaint:
Groin pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ woman with a past medical history 
significant for HTN, T2DM, seizure disorder, Hepatitis C, and 
schizoaffective disorder who presents with 10 days of R groin 
pain.

At baseline, she uses a walker to ambulate and takes Oxycodone 
for diabetic neuropathy, which she describes a "burning" 
sensation in her BLE. She was in her usual state of health until 
2 weeks ago when she slipped on a banana peel and ended up in a 
splits position. 2 days later, she noted R groin pain. On ___, 
she was admitted to ___ with acute urinary retention likely 
___ Oxycodone/Benadryl use and UTI and RLQ abdominal pain. Her 
Benadryl was temporarily D/C'ed, and she was treated with a 
course of Macrobid. In terms of her RLQ abdominal pain, acute 
processes were ruled-out via CT and U/S. She reports that her 
pain, which she clarifies was always R groin and not RLQ, 
slightly improved on D/C, but has gradually worsened since then. 
She describes this pain as non-radiating, pulsating pain that is 
constant; exacerbated with movement; and accompanied by shooting 
pains down her RLE. She endorses fevers (Tm 100.4) and chills, 
but denies N/V, abdominal pain, changes in her bowel habits, or 
urinary symptoms.

In the ED, her initial vitals were T 99.8 HR 96 BP 144/77 RR 18 
SaO2 97% on RA. Her physical examination was notable for R 
inguinal TTP. Her laboratory results were notable for Na 131; 
ALT 51 AST 87 Alk Phos 199 Tbili 1.7 Alb 3.0; and WBC 8.1. She 
underwent RUQ U/S which was unchanged. She received IV Morphine 
17 MG for pain. 

Currently, she continues to report R groin pain and is 
requesting pain medications. Otherwise, she has no additional 
complaints.    

REVIEW OF SYSTEMS: Per HPI, otherwise negative in detail.
 
Past Medical History:
Hypertension 
Diabetes c/b neuropathy
Seizure disorder
Hepatitis C 
Cirrhosis 
Schizoaffective d/o
Asthma
Migraine headaches
 
Social History:
___
Family History:
Mother: HTN, DM, asthma
Father: ___ disorder 
Nephew, niece: ___
 
Physical Exam:
On Admission:
Vitals: T 98.9 BP 129/75 HR 90 RR 17 SaO2 100% on RA
General: Well-appearing, obese female lying comfortably in bed
HEENT: Sclera anicteric, PERRLA, MMM, oropharynx clear  
Neck: Supple, no JVD, no LAD
Lungs: CTAB
Heart: RRR, normal s1/2, no m/r/g  
Abdomen: BS+, soft, NT/ND, no organomegaly  
Back: No TTP, no CVA tenderness
Ext: WWP, 2+ pulses, no edema
Neuro: A&Ox3, CN II-XII intact
R hip: TTP along inguinal region and lateral aspect, limited 
passive and active ROM (compared to L), no erythema or warmth, 
no masses

On Discharge:
VS: Tm 99.1 Tc 98.1 BP 125/59 (113-139/59-78) HR 108 (92-108) RR 
18 SaO2 95% on RA
I/O (8hrs) 600(PO)/BRP, (24hrs) 570(PO)/BRP, BM x1
FSBG 107-201 
General: Well-appearing, obese female lying comfortably in bed
HEENT: Sclera anicteric, PERRLA, MMM, oropharynx clear  
Neck: Supple, no JVD, no LAD
Lungs: CTAB
Heart: RRR, normal s1/2, no m/r/g  
Abdomen: BS+, soft, NT/ND, no organomegaly  
Back: No TTP, no CVA tenderness
Ext: WWP, 2+ pulses, no edema
Neuro: A&Ox3, CN II-XII intact
R hip: TTP along inguinal region and lateral aspect, limited 
passive and active ROM (compared to L), no erythema or warmth, 
no masses
 
Pertinent Results:
On Admission:
___ 08:20AM BLOOD WBC-8.1 RBC-3.35* Hgb-10.2* Hct-31.1* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-15.7* Plt ___
___ 08:20AM BLOOD Neuts-73.3* ___ Monos-4.7 Eos-2.1 
Baso-0.2
___ 08:20AM BLOOD Plt ___
___ 08:10AM BLOOD ___
___ 08:20AM BLOOD Glucose-219* UreaN-4* Creat-0.5 Na-131* 
K-3.8 Cl-96 HCO3-31 AnGap-8
___ 08:20AM BLOOD ALT-51* AST-87* AlkPhos-199* TotBili-1.7*
___ 08:20AM BLOOD Albumin-3.0* Calcium-8.2* Phos-2.5* 
Mg-1.5*
___ 08:36AM BLOOD Lactate-2.1*

___ CXR:
IMPRESSION: No acute intrathoracic process.

___ RUQ U/S:
IMPRESSION: 
1. Nodular and coarsened liver compatible with cirrhosis without 
focal lesions. 
2. Splenomegaly. 
3. No evidence of cholecystitis or choledocholithiasis.

___ Hip XR:
FINDINGS: Bony structures and joint spaces are essentially 
within normal limits and symmetric bilaterally. No evidence of 
fracture or dislocation. However, if there is strong clinical 
concern for an occult fracture, cross-sectional imaging should 
be obtained.

___ MR-L spine:
IMPRESSION: 
Multilevel disc disease most notably at the L4-L5 level where 
there is a right paracentral disc bulge with superimposed disc 
extrusion extending superiorly into the right lateral recess.  
This disc causes mass effect on the exiting right L4 nerve root 
and traversing right L5 nerve root.

___ MR-Hip (Prelim):
IMPRESSION: 
MR of the hip demonstrating extensive edema of multiple muscles 
around the pelvic girdle, predominantly involving obturator 
internus, externus, quadratus femoris and gluteus medius. This 
is centered around the superior pubic ramus which demonstrates 
mild bone edema but no fracture. Differentials for this 
appearance include myositis, infection, lymphoma. Recommend 
contrast enhanced MRI to further evaluate.

___ MR-Hip with contrast:
IMPRESSION: 
The area of diffuse muscular and bone marrow edema enhances 
avidly. The lack of any fluid collection or heterogenous 
enhancement makes infection somewhat less likely, however 
differential considerations also include tumor and 
post-traumatic changes.   
  
Additional history was provided confirming recent trauma. Given 
this additional information, post-traumatic change is the most 
likely of the provided differentials. Follow-up with repeat MRI 
in ___ weeks to ensure improvement/resolution is recommended. 
 
On Discharge:
___ 07:00AM BLOOD WBC-6.8 RBC-3.29* Hgb-10.2* Hct-30.5* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-15.7* Plt ___
___ 08:10AM BLOOD ESR-98*
___ 07:00AM BLOOD Glucose-175* UreaN-5* Creat-0.6 Na-130* 
K-3.5 Cl-96 HCO3-29 AnGap-9
___ 08:10AM BLOOD ALT-47* AST-88* LD(LDH)-282* CK(CPK)-155 
AlkPhos-200* TotBili-1.9*
___ 07:00AM BLOOD Calcium-8.2* Phos-4.0 Mg-1.5*
___ 08:10AM BLOOD CRP-50.2*
 
Brief Hospital Course:
#R groin pain: The patient presented with R groin pain in the 
setting of a fall. Her pain was likely ___ musculoskeletal 
strain in the setting of trauma. However, given her low-grade 
fevers and elevated inflammatory markers, septic joint was 
considered. Her WBC was WNL, and her Hip-XR were unremarkable. 
Her MR-Hip with and without contrast were consistent with 
post-traumatic changes. Initially, there was concern for 
lymphoma. However, her laboratory values were only notable for a 
slightly elevated LDH (her baseline) and significantly elevated 
ESR and CRP. She was given PO Oxycodone for pain in addition to 
her home Sulindac, and she was discharged on a limited supply of 
PO Oxycodone. ___ evaluated her and felt that she was safe to 
return home with ___. Follow-up with repeat MRI in ___ weeks to 
ensure improvement/resolution is recommended.

#UTI: During her last admission, she was started on Macrobid for 
a complicated UTI. She complicated her course prior to D/C.

#HTN: Her home HCTZ was continued.

#T2DM: Her home Metformin and NPH were continued, and she was 
placed on ISS. Her home Glipizide was held and restarted on D/C. 
For neuropathy, her home Gabapentin was continued.

#Seizure disorder: Her home Phenytoin and Lamotrigine were 
continued.

#Schizoaffective disorder: Her home Abilify and Prazosin were 
continued.

#COPD: Her home Montelukast and nebs were continued.

#Hyponatremia: She was admitted with Na 131, which is her 
baseline and is likely ___ hypervolemia in the setting of liver 
disease.

#Chronic HCV/?Cirrhosis: She presented with ALT 51, AST 87, Alk 
Phos 199, and Tbili 1.7, which is her baseline. Her U/S revealed 
nodular liver and splenomegaly, unchanged from prior. Outpatient 
follow-up with Liver Clinic was scheduled for ___.

#Hypoalbuminemia: She was admitted with Alb 3.0, which is her 
baseline and likely ___ liver disease. Per Nutrition, her Ensure 
TID was continued.

TRANSITIONAL ISSUES:
1. She was treated with PO Oxycodone PRN and discharged on a 
limited supply of PO Oxycodone.
2. ___ evaluated her and felt that she was safe to return home 
with ___.
3. Follow-up with repeat MRI in ___ weeks to ensure 
improvement/resolution is recommended.
4. If her pain persists, please consider an outpatient Ortho 
eval.
5. Her urine and blood cultures will need to be followed-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADOL (Ultram) 50 mg PO Q6H 
2. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
3. Zolpidem Tartrate 10 mg PO HS 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
5. Aripiprazole 30 mg PO DAILY 
6. Gabapentin 800 mg PO TID 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. NPH 25 Units Breakfast
NPH 20 Units Bedtime
9. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
10. Lidocaine Viscous 2% 20 mL PO QID:PRN thrush 
11. Montelukast Sodium 10 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. Phenytoin Sodium Extended 200 mg PO BID 
15. Sumatriptan Succinate 50 mg PO ONCE MR1 migraine 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
18. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
19. GlipiZIDE 5 mg PO BID 
20. MetFORMIN (Glucophage) 1000 mg PO BID 
21. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION 2 PUFFS BID 
22. Prazosin 2 mg PO QAM 
23. Prazosin 8 mg PO QPM 
24. LaMOTrigine 100 mg PO QAM 
25. LaMOTrigine 200 mg PO QHS 
26. Sulindac 200 mg PO BID
 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Aripiprazole 30 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
5. Gabapentin 800 mg PO TID 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. NPH 25 Units Breakfast
NPH 20 Units Bedtime
8. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
9. LaMOTrigine 100 mg PO QAM 
10. LaMOTrigine 200 mg PO QHS 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Montelukast Sodium 10 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Phenytoin Sodium Extended 200 mg PO BID 
16. Prazosin 2 mg PO QAM 
17. Prazosin 8 mg PO QPM 
18. Sulindac 200 mg PO BID 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
21. GlipiZIDE 5 mg PO BID 
22. Lidocaine Viscous 2% 20 mL PO QID:PRN thrush 
23. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION 2 PUFFS BID 
24. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drive while taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth four times a day Disp 
#*20 Tablet Refills:*0
25. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0
26. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*20 Tablet Refills:*0
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Groin pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___. You were admitted to the hospital with right groin 
pain. Your pain was likely due to a muscle tear. You were 
treated and discharged with oral pain medications. Physical 
Therapy evaluated you and felt that you were safe to return home 
with physical therapy.

Please take care to follow-up with your Primary Care physician.
 
Followup Instructions:
___